NAND-2 Ring Oscillator IHP Open PDK

.lib "$PDK_ROOT/$PDK/libs.tech/ngspice/models/cornerMOSlv.lib" mos_tt

.subckt nand2 a b vdd vss z
xm01 vdd   a     z     vdd sg13_lv_pmos  l=0.15u  w=0.96u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
xm02 vss   a     sig3  vss sg13_lv_nmos  l=0.15u  w=0.82u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
xm03 z     b     vdd   vdd sg13_lv_pmos  l=0.15u  w=0.96u  as=0.20405p  ad=0.20405p  ps=2.07u   pd=2.07u
xm04 sig3  b     z     vss sg13_lv_nmos  l=0.15u  w=0.82u  as=0.1749p   ad=0.1749p   ps=1.85u   pd=1.85u
c4  a     vss   0.549f
c5  b     vss   0.578f
c1  z     vss   0.609f
.ends

XNAND1 1 1 vd vs 2 nand2
XNAND2 2 2 vd vs 3 nand2
XNAND3 3 3 vd vs 4 nand2
XNAND4 4 4 vd vs 5 nand2
XNAND5 5 5 vd vs 6 nand2
XNAND6 6 6 vd vs 7 nand2
XNAND7 7 7 vd vs 8 nand2
XNAND8 8 8 vd vs 9 nand2
XNAND9 9 9 vd vs 10 nand2
XNAND10 10 10 vd vs 11 nand2
XNAND11 11 11 vd vs 12 nand2
XNAND12 12 12 vd vs 13 nand2
XNAND13 13 13 vd vs 14 nand2
XNAND14 14 14 vd vs 15 nand2
XNAND15 15 15 vd vs 16 nand2
XNAND16 16 16 vd vs 17 nand2
XNAND17 17 17 vd vs 18 nand2
XNAND18 18 18 vd vs 19 nand2
XNAND19 19 19 vd vs 1 nand2

XNAND20 1 1 vd 0 out nand2

Vdd vd 0 1.5
Vss vs 0 0

.option noinit

.tran 10p 80n uic

.control
pre_osdi ../lib/ngspice/psp103_nqs.osdi ../lib/ngspice/psp103.osdi
set temp=0
option klu
run
rusage
set xbrushwidth=2
*plot i(Vss) ylimit 0 500u xlimit 50n 60n
plot out
plot out xlimit 50n 60n
meas tran tdiff TRIG V(out) val=0.7 rise=5 TARG v(out) val=0.7 rise=15
let freq=10/tdiff
print freq
linearize out
fft out
plot mag(out)  xlimit 300Meg 2300Meg
meas sp fmax MAX_AT out from=1e8 to=1e9
echo
reset
* pss <Fguess> <StabTime> <OscNoB> <Points> <Harmonics> <Sc_iter> <Steady_Coeff> 
pss 500e6 1n out 512 6 5 5e-3 uic
plot mag(out) arrowplot xlimit 300Meg 2300Meg
setplot pss2
plot out
inventory
.endc

.end
